US04544747
Ten grams of N-ethyl-2-methyl-3-chloroaniline is allowed to react with 15 g of diethyl ethoxymethylenemalonate under heating at 110° C. for 30 minutes. Then, polyphosphoric acid (obtained from 50 g each of phosphoric acid and phosphorus pentaoxide) is added to be subjected to the reaction at 140° C. for 40 minutes. After the reaction, the mixture is poured into 600 g of water and ice, resulting in crystals separated out. The crystals are recovered by filtration, and a 10% sodium hydroxide solution is added to the fitrate and the mixture is refluxed for 1 hour. After refluxing, the mixture is treated with activated carbon and adjusted to pH 2 with concentrated hydrochloric acid, whereby there separate out light yellow crystals. Recrystallization from dimethylformamide yields 11 g of 1-ethyl-7-chloro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid as the white, needle-like crystals. mp. 221°-222° C.

reactant | N-ethyl-2-methyl-3-chloroaniline | Ten grams | C(C)NC1=C(C(=CC=C1)Cl)C | C9H12ClN
reactant | diethyl ethoxymethylenemalonate | 15 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 600 g | O | H2O
product | 1-ethyl-7-chloro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 11 g | C(C)N1C=C(C(C2=CC=C(C(=C12)C)Cl)=O)C(=O)O | C13H12ClNO3
